US04920129
To a solution of 8-(2-methyl-6-t-butoxycarbonylaminobenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine (8.42 g) in ethanol (67 ml) was added dropwise 23%-ethanolic hydrogen chloride (26 g) at room temperature and the mixture was stirred for 6 hours. The resultant solid was siolated by filtration and dispersed into a mixture of an aqueous solution of sodium bicarbonate and chloroform. The chloroform layer was separated and washed with water and dried over magnesium sulfate. Following filtration, the solvent was removed under reduced pressure to give 8-(2-methyl-6-aminobenzylamino)-3-(2-propynyl)-2methylimidazo[1,2-a]pyridine (4.08 g). The crude crystzals (0.5 g) were recrystallized from a mixture of chloroform and n-hexane to give 0.46 g of pure crystals.

reactant | 8-(2-methyl-6-t-butoxycarbonylaminobenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine | 8.42 g | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)NC(=O)OC(C)(C)C | C24H28N4O2
reactant | hydrogen chloride | 26 g | Cl | ClH
solvent | ethanol | 67 ml | C(C)O | C2H6O
product | 8-(2-methyl-6-aminobenzylamino)-3-(2-propynyl)-2methylimidazo[1,2-a]pyridine | 4.08 g | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)N | C19H20N4
